US09388189B2
c) 2-Fluoro-4-hydroxy-N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide
N-(5-Bromopyridin-3-yl)-2-fluoro-4-hydroxybenzenesulfonamide (414 mg, 1.19 mmol) was dissolved in 10 ml dioxane. Bis(pinacolato)diboron (335 mg, 1.32 mmol) and potassium acetate (325 mg, 3.31 mmol) were added and the mixture was submitted to three vacuum-argon cycles. Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (50 mg, 0.06 mmol) was added under argon conditions. The mixture was stirred at 100° C. for 2 days. Dioxane was evaporated under reduced pressure. Ethyl acetate was added to the residue and the precipitated salts were separated by filtration. The solvent was evaporated under reduced pressure and hexane was added to the residue. The title compound (385 mg, 82% yield) was filtered and used in the next synthetic step without further purification. Purity 100%.

reactant | N-(5-Bromopyridin-3-yl)-2-fluoro-4-hydroxybenzenesulfonamide | 1.19 mmol, 414 mg | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)O)F | C11H8BrFN2O3S
reactant | Bis(pinacolato)diboron | 1.32 mmol, 335 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.31 mmol, 325 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Fluoro-4-hydroxy-N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide | 385 mg, 82% yield | FC1=C(C=CC(=C1)O)S(=O)(=O)NC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C17H20BFN2O5S
